US07405234B2
To 3-chloro-2-fluoroaniline (10.0 g, 68.7 mmol) in DMSO (500 mL) was added copper (II) chloride (18.5 g, 137.4 mmol) and conc. HCl (50 mL). The whole was heated to 90° C. for 13 h. The reaction was cooled to 0° C. and 4N NaOH was added dropwise to adjust to pH 8. The reaction was diluted with water and extracted with Et2O/EtOAc (1:1). The organic layer was washed with brine, and was dried, filtered and concentrated. The resulting residue was purified via silica gel chromatography eluting with 5-30% EtOAc/hexane to provide 4-amino-2-chloro-3-fluorobenzaldehyde (1.00 g) as a yellow powder.

reactant | 3-chloro-2-fluoroaniline | 68.7 mmol, 10.0 g | ClC=1C(=C(N)C=CC1)F | C6H5ClFN
reactant | HCl | 50 mL | Cl | ClH
reactant | NaOH | 4N | [OH-].[Na+]
reactant | DMSO | 500 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
catalyst | copper (II) chloride | 137.4 mmol, 18.5 g | [Cu](Cl)Cl
product | 4-amino-2-chloro-3-fluorobenzaldehyde | 1.00 g | NC1=C(C(=C(C=O)C=C1)Cl)F | C7H5ClFNO
